US07479502B2
A solution of 3-bromo-2-hydroxy-5-(1H-tetrazol-5-yl)benzaldehyde in dichloromethane (25 mL) was treated with diisopropylethylamine (1.2 mL, 6.4 mmol) and 2-methoxyethoxymethyl chloride (0.72 mL, 6.4 mmol) under a stream of nitrogen and the mixture was stirred at room temperature for 2 hours. Workup involved rotovaping off most of the dichloromethane, followed by usual extractive workup with ethyl acetate and 5% aqueous citric acid. Collection and drying of the organic extracts gave a regioisomeric mixtures of 3-bromo-2-(methoxyethoxymethoxy)-5-(1-(methoxyethoxymethyl)-1H-tetrazol-5-yl)benzaldehyde (0.93 g) as an oil.

reactant | 3-bromo-2-hydroxy-5-(1H-tetrazol-5-yl)benzaldehyde | BrC=1C(=C(C=O)C=C(C1)C1=NN=NN1)O | C8H5BrN4O2
reactant | diisopropylethylamine | 6.4 mmol, 1.2 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | 2-methoxyethoxymethyl chloride | 6.4 mmol, 0.72 mL | COCCOCCl | C4H9ClO2
reactant | citric acid | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | dichloromethane | 25 mL | ClCCl | CH2Cl2
product | 3-bromo-2-(methoxyethoxymethoxy)-5-(1-(methoxyethoxymethyl)-1H-tetrazol-5-yl)benzaldehyde | 0.93 g | BrC=1C(=C(C=O)C=C(C1)C1=NN=NN1COCCOC)OCOCCOC | C16H21BrN4O6
